US05162533
3-Cyano-2-morpholino-5,4'-bipyridine-1'-oxide
A mixture of 10 g 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide and 40 ml morpholine is heated for 10 minutes at 70° C.-80° C. Subsequently, the mixture is evaporated to dryness under vacuum at an 80° C. bath temperature and the residue is collected, washed carefully with water and dried at 110° C. The product is refluxed for 1 hour with 150 ml dichloromethane, filtered off with suction, dried once again at 110° C. and crystallized from n-butyl acetate. Yield: 9.27 g (75% of the theoretical yield), with a melting point of 234° C.-236° C.

reactant | 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide | 10 g | ClC1=NC=C(C=C1C#N)C1=CC=[N+](C=C1)[O-] | C11H6ClN3O
reactant | morpholine | 40 ml | N1CCOCC1 | C4H9NO
product | 3-Cyano-2-morpholino-5,4'-bipyridine-1'-oxide | C(#N)C=1C(=NC=C(C1)C1=CC=[N+](C=C1)[O-])N1CCOCC1 | C15H14N4O2
